US07897597B2
Sodium borohydride (29.0 g, 0.767 mol) was added in small portions to a solution of nickel(II)chloride (22.8 g, 0.096 mol) in methanol (1.25 L). A solution of (7-benzyloxy-3-nitroquinolin-4-yl)-(2-methylpropyl)amine (67.4 g, 0.192 mol) in methanol (300 mL) and dichloromethane (300 mL) was added to the resulting mixture. A precipitate was present and was dissolved by the addition of dichloromethane (500 mL). Additional sodium borohydride (˜10 g) was added in small portions until the (7-benzyloxy-3-nitroquinolin-4-yl)-(2-methylpropyl)amine was consumed. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with 50:50 dichloromethane:methanol. The filtrate was concentrated under reduced pressure, and the black, oily residue was treated with water and dichloromethane. The organic solution was washed with water and brine, dried over magnesium sulfate, and filtered. The filtrate was treated with activated charcoal, filtered, and concentrated under reduced pressure to yield 55.4 g of 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine as an oily brown solid.

reactant | Sodium borohydride | 0.767 mol, 29.0 g | [BH4-].[Na+]
reactant | (7-benzyloxy-3-nitroquinolin-4-yl)-(2-methylpropyl)amine | 0.192 mol, 67.4 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)C | C20H21N3O3
reactant | sodium borohydride | ˜10 g | [BH4-].[Na+]
solvent | methanol | 1.25 L | CO | CH4O
solvent | methanol | 300 mL | CO | CH4O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | nickel(II)chloride | 0.096 mol, 22.8 g | [Ni](Cl)Cl
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine | 55.4 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C20H23N3O
